US07354924B2
Preparation of Example 99, 1-(benzoyl)-4-[(4-methoxy-7-(2-acetylamino-pyrazin-5-yl)-6-azaindol-3-yl)-oxoacetyl]piperazine:
1-(benzoyl)-4-[(4-methoxy-7-(2-amino-pyrazin-5-yl)-6-azaindol-3-yl)-oxoacetyl]piperazine (4 mg) and acetic anhydride (20 mg) were dissolved in pyridine (0.5 ml). The reaction was stiffed for three hours at room temperature. After reaction was quenched with MeOH (1 ml), solvents were concentrated to give a residue which was purified using a Shimadzu automated preparative HPLC System to provide 3.0 mg of the desired compound, 1-(benzoyl)-4-[(4-methoxy-7-(2-acetylamino-pyrazin-5-yl)-6-azaindol-3-yl)-oxoacetyl]piperazine. 1H NMR (500 MHz, CD3OD) δ9.58 (s, 1H), 9.25 (s, 1H), 8.45 (s, 1H), 8.10 (s, 1H), 7.49 (m, 5H), 4.12 (s, 3H), 3.84-3.35 (m, 8H), 2.27 (s, 3H). MS m/z: (M+H)+ Calc'd for C27H26N7O5: 528.20; found 528.22. HPLC retention time: 1.33 minutes (column A).

reactant | 1-(benzoyl)-4-[(4-methoxy-7-(2-amino-pyrazin-5-yl)-6-azaindol-3-yl)-oxoacetyl]piperazine | 4 mg | C(C1=CC=CC=C1)(=O)N1CCN(CC1)C(C(=O)C1=CNC2=C(N=CC(=C12)OC)C=1N=CC(=NC1)N)=O | C25H23N7O4
reactant | acetic anhydride | 20 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
product | 1-(benzoyl)-4-[(4-methoxy-7-(2-acetylamino-pyrazin-5-yl)-6-azaindol-3-yl)-oxoacetyl]piperazine | 3.0 mg | C(C1=CC=CC=C1)(=O)N1CCN(CC1)C(C(=O)C1=CNC2=C(N=CC(=C12)OC)C=1N=CC(=NC1)NC(C)=O)=O | C27H25N7O5
